US04517202
A stirred solution of 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one (38 mg), prepared as described in Reference Example 47 and in the form of (±)-6β-[(E)-3β-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one, in dry benzene (0.28 ml) was treated with methanesulphonyl chloride (0.0072 ml) at the ambient temperature and then with triethylamine (0.012 ml) and stirred for 2 hours. It was then treated with 1,8-diazabicyclo[5,4,0]undec-7-ene (65 mg) and stirred for 150 minutes. The mixture was treated with water (15 ml) and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under reduced pressure. The resulting residue was then subjected to medium pressure, short column chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane (23:77 v/v), to give 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (24 mg), in the form of (±)-6β-[(E)-3β-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S,15S)-6a-oxo-6,9-methano-15-tert-butyldimethylsilyloxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate.

reactant | 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-(1-hydroxy-4-methoxycarbonylbut-1-yl)bicyclo[3,3,0]octan-2-one | 38 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CC(C(C2CC1)=O)C(CCCC(=O)OC)O)COC1=CC=CC=C1 | C30H46O6Si
reactant | methanesulphonyl chloride | 0.0072 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.012 ml | C(C)N(CC)CC | C6H15N
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 65 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | benzene | 0.28 ml | C1=CC=CC=C1 | C6H6
solvent | water | 15 ml | O | H2O
product | 6-[(E)-3-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 24 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)COC1=CC=CC=C1 | C30H44O5Si
